US04443452
5,10-Dihydro-5-{[(4-methyl-1-piperazinyl)amino]carbonyl}-11H-dibenzo[b,e][1,4]diazepin-11-one
A mixture of 5.5 gm (0.0202 mol) of 5-chlorocarbonyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one, 8.6 gm (0.075 mol) of 1-amino-4-methylpiperazine, and 200 ml of anhydrous dioxane was heated for 30 minutes over a steam bath. Then, 2 gm of active charcoal were added to the resulting cloudy reaction mixture while it was still hot, the mixture was filtered, and the filtrate obtained was concentrated by evaporation in vacuo. The residue was purified by column chromatography on 300 gm of silica gel [eluant: dichloromethane/methanol/conc. aqueous ammonia mixture (volume ratio of 800:200:5)]. The residue remaining after the eluates had been concentrated was taken up in 500 ml of ethyl acetate, 1 gm of active charcoal was added, and the resulting mixture was boiled, filtered, and concentrated by evaporation. Then, 300 ml of methanol were added, and the resulting mixture was filtered while hot and evaporated to dryness. After recrystallization from ethanol, 1.8 gm (25% of theory) of colorless crystals were obtained, m.p.: 213°-214° C. (D).

reactant | 5-chlorocarbonyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.0202 mol, 5.5 gm | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C14H9ClN2O2
reactant | 1-amino-4-methylpiperazine | 0.075 mol, 8.6 gm | NN1CCN(CC1)C | C5H13N3
reactant | charcoal | 2 gm | C | CH4
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 5,10-Dihydro-5-{[(4-methyl-1-piperazinyl)amino]carbonyl}-11H-dibenzo[b,e][1,4]diazepin-11-one | CN1CCN(CC1)NC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C19H21N5O2
